US05739351
A mixture of 6.05 g of (3aRS,4RS,6SR,7aSR)-6-azidomethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]perhydroisoindol-4-ol, 0.6 g of 10% palladium on carbon and 300 cm3 of ethanol is heated to 60° C. Hydrogen is bubbled through for 3 hours, and then the reaction mixture is left at 20° C. for 20 hours and then purged with a stream of nitrogen, filtered and concentrated under reduced pressure (2.7 kPa). 5.7 g of (3aRS,4RS,6SR,7aSR)-6-aminomethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]perhydroisoindol-4-ol are obtained in the form of a thick white foam.

reactant | (3aRS,4RS,6SR,7aSR)-6-azidomethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]perhydroisoindol-4-ol | 6.05 g | N(=[N+]=[N-])CC1CC(C2CN(CC2C1)C(CC1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC | C25H30N4O4
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
solvent | ethanol | 300 cm3 | C(C)O | C2H6O
product | (3aRS,4RS,6SR,7aSR)-6-aminomethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]perhydroisoindol-4-ol | 5.7 g | NCC1CC(C2CN(CC2C1)C(CC1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC | C25H32N2O4
